US06890916B2
2c, 5-Chloro-3-{1-[3-(2-oxo-3,4-dihydro-2H-quinolin-1-yl)propan-1-yl]piperidin-4-yl}-1H-indole, hydrochloride
from 5-chloro-3-(piperidin-4-yl)-1H-indole and 1-(3-bromopropan-1-yl)-3,4-dihydroquinolin-2(1H)-one. Mp 142-146° C. 1H NMR (DMSO-d6): 1.95-2.15 (m, 6H); 2.60 (t, 2H); 2.90 (t, 2H); 2.95-3.15 (3H); 3.15-3.20 (m, 2H); 3.55 (d, 2H); 3.95 (t, 2H); 7.00-7.10 (m, 2H); 7.20-7.30 (m, 4H); 7.35 (d, 1H); 7.75 (s, 1H), 11.30 (broad s, 1H); 11.15 (s, 1H). MS m/z: 422 (MH+), 188.

reactant | 5-chloro-3-(piperidin-4-yl)-1H-indole | ClC=1C=C2C(=CNC2=CC1)C1CCNCC1 | C13H15ClN2
reactant | 1-(3-bromopropan-1-yl)-3,4-dihydroquinolin-2(1H)-one | BrCCCN1C(CCC2=CC=CC=C12)=O | C12H14BrNO
product | 5-Chloro-3-{1-[3-(2-oxo-3,4-dihydro-2H-quinolin-1-yl)propan-1-yl]piperidin-4-yl}-1H-indole, hydrochloride | Cl.ClC=1C=C2C(=CNC2=CC1)C1CCN(CC1)CCCN1C(CCC2=CC=CC=C12)=O | InChI=1S/C25H28ClN3O.ClH/c26-20-7-8-23-21(16-20)22(17-27-23)18-10-14-28(15-11-18)12-3-13-29-24-5-2-1-4-19(24)6-9-25(29)30;/h1-2,4-5,7-8,16-18,27H,3,6,9-15H2;1H
